US08008322B2
1-[4-(4-Chloro-3-cyanopyrid-2-yl)phenyl]-3-(2,4-dimethoxyphenyl)urea is treated with hydrazine hydrate and then with trifluoroacetic acid under conditions similar to those described in Example 27. 1-[4-(3-Amino-1H-pyrazolo[4,3-c]pyrid-4-yl)phenyl]-3-(2,4-dimethoxyphenyl)urea is obtained in the form of a beige-coloured solid, the characteristics of which are as follows:

reactant | 1-[4-(4-Chloro-3-cyanopyrid-2-yl)phenyl]-3-(2,4-dimethoxyphenyl)urea | ClC1=C(C(=NC=C1)C1=CC=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC)OC)C#N | C21H17ClN4O3
reactant | hydrazine hydrate | O.NN
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[4-(3-Amino-1H-pyrazolo[4,3-c]pyrid-4-yl)phenyl]-3-(2,4-dimethoxyphenyl)urea | NC1=NNC2=C1C(=NC=C2)C2=CC=C(C=C2)NC(=O)NC2=C(C=C(C=C2)OC)OC | C21H20N6O3
